US06274119B1
1-(6-piperazino-2-naphthyl)-1-ethanone (254 mg, 1 mmol) was added to a stirred mixture of 1 g NaOH, 100 mg tetia-n-butylammonium hydrogensulfate, 2 mL water and 6 mL toluene, followed by a solution of 230 mg (1.05 mmol) of di-tert-butyl dicarbonate. The course of the reaction was followed by TLC (silica, 5% methanol in dichloromethane). Every 10 minutes an additional amount of the dicarbonate was added until all starting material had reacted. A total of approximately 1.5 equivalents were used. A mixture of water and dichloromethane (60 mL each) was added, and, after thorough shaking, the layers were separated. The aqueous layer was extracted with an additional 30 mL of dichloromethane. The combined organic extracts were dried with anhydrous magnesium sulfate. During this procedure, the color of the solution turned from pink to light yellow. Evaporation in vacuo gave 295 mg (83%) of tert-butyl-4-(6-acetyl-2-naphthyl)-1-piperazinecarboxylate, which, on recrystallization from dichloromethane-petroleum ether mixture, melted at 153-154° C. Anal. Calculated for C21H26N2O3: C, 71.16; H, 7.39; N, 7.90. Found: C, 71.27; H, 7.60; N, 7.86. 1H NMR: δ1.50 (s, 9H, —C(CH3)3), 2.68 (s, 3H, CH3), 3.33 and 3.64 (t, J=4.9 Hz, 8H, piperazine), 7.10 (d, 1H, 5-H), 7.31 (dd, 1H, 7H), 7.70 (d, 1H, 4-H), 7.85 (d, 1H, 8-H), 7.97 (d, 1H, 3-H), 8.35 (d, 1H, 1-H); J5,7=2 Hz, J7,8=9 Hz, J3,4=8.7 Hz.

reactant | 1-(6-piperazino-2-naphthyl)-1-ethanone | 1 mmol, 254 mg | N1(CCNCC1)C=1C=C2C=CC(=CC2=CC1)C(C)=O | C16H18N2O
reactant | NaOH | 1 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.05 mmol, 230 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dicarbonate | C(=O)([O-])OC(=O)[O-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mL | O | H2O
product | tert-butyl-4-(6-acetyl-2-naphthyl)-1-piperazinecarboxylate | 295 mg, 83% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=CC=C(C=C2C=C1)C(C)=O | C21H26N2O3
